US06174898B1
Z-(R)-1-(2-((2-(2-Methylphenyl)-2-phenylethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride
Z-(R)-1-(2-((2-(2-Methylphenyl)-2-phenylethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (2.0 g, 0.0051 mol, prepared similarly to the method described in Example 50) was dissolved in ethanol (8 ml) and 12 N sodium hydroxide solution (1.3 ml) was introduced. After stirring the solution at room temperature for 2 h, 37% hydrochloric acid (ca. 1.8 ml) was added with cooling, followed by dichloromethane (300 ml) and the mixture was dried (Na2SO4). Filtration and evaporation of the filtrate gave a residue, which was co-evaporated with acetone. The solid product was triturated with ethyl acetate, collected by filtratiion and dried in vacuo to give the title compound (0.70 g, 34%).

reactant | Z-(R)-1-(2-((2-(2-Methylphenyl)-2-phenylethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCO\C=C(\C1=CC=CC=C1)/C1=C(C=CC=C1)C | C25H31NO3
reactant | sodium hydroxide | 12 N, 1.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | ca. 1.8 ml | Cl | ClH
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | Z-(R)-1-(2-((2-(2-Methylphenyl)-2-phenylethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride | 0.70 g, 34% | Cl.CC1=C(C=CC=C1)\C(=C/OCCN1C[C@@H](CCC1)C(=O)O)\C1=CC=CC=C1 | InChI=1S/C23H27NO3.ClH/c1-18-8-5-6-12-21(18)22(19-9-3-2-4-10-19)17-27-15-14-24-13-7-11-20(16-24)23(25)26;/h2-6,8-10,12,17,20H,7,11,13-16H2,1H3,(H,25,26);1H/b22-17-;/t20-;/m1./s1
